US06881733B1
cis-1-benzyl-3-ethyl-4-(6-fluorobenzofur-7-yl)piperidine
Beginning with 5.4 gm (15.3 mMol) 1-benzyl-3-ethyl-4-hydroxy-4-(6-fluorobenzofur-7-yl)piperidine, 5.91 gm (88%) 1-benzyl-3-ethyl-4-(methyl oxoacetoxy)-4-(6-fluorobenzofur-7-yl)piperidine was recovered as an orange oil, essentially as described in EXAMPLE 16. This material was treated with tri(n-butyl)tin hydride essentially as described in EXAMPLE 16 to provide 4.91 gm of the desired compound.

reactant | 1-benzyl-3-ethyl-4-hydroxy-4-(6-fluorobenzofur-7-yl)piperidine | 15.3 mMol, 5.4 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC=2C=COC21)F)O)CC | C22H24FNO2
reactant | 1-benzyl-3-ethyl-4-(methyl oxoacetoxy)-4-(6-fluorobenzofur-7-yl)piperidine | 5.91 gm | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC=2C=COC21)F)OC(C(=O)C)=O)CC | C25H26FNO4
product | cis-1-benzyl-3-ethyl-4-(6-fluorobenzofur-7-yl)piperidine | 4.91 gm | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C1=C(C=CC=2C=COC21)F)CC | C22H24FNO
